US04066675
Step A-7. Preparation of 1-iodo-4-acetoxy-5-(3-trifluoromethylphenoxy)pentane
A solution of 1-(p-toluenesulfonyloxy)-4-acetoxy-5-(3-trifluoromethylphenoxy)pentane (125 g., 0.28 mole) and sodium iodide (126 g., 0.84 mole) in acetone (600 ml.) is allowed to stand at 25°-27° for 16 hours. The precipitated sodium tosylate is filtered off. Most of the acetone is evaporated from the filtrate and the residue is treated with 300 ml. of water. The oily product is taken up in ether, washed with dilute sodium thiosulfate solution, water, and brine, and dried over magnesium sulfate. The solvent is distilled in vacuo to yield 113 g. (97%) of the crude title compound as a yellowish oil which is used without further purification; pmr (CDCl3) 2.06 (3H, s CH3O); 3.20 (2H, t CH2I); 4.01 (2H, d CH2O); 5.20 (1H, m CHO).

reactant | 1-(p-toluenesulfonyloxy)-4-acetoxy-5-(3-trifluoromethylphenoxy)pentane | 0.28 mole, 125 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC(COC1=CC(=CC=C1)C(F)(F)F)OC(C)=O)C | C21H23F3O6S
reactant | sodium iodide | 0.84 mole, 126 g | [I-].[Na+]
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | 1-iodo-4-acetoxy-5-(3-trifluoromethylphenoxy)pentane | ICCCC(COC1=CC(=CC=C1)C(F)(F)F)OC(C)=O | C14H16F3IO3
